US04396704
8.32 g (0.05 mole) of p-trimethylsilylphenol was dissolved in 25 ml toluene. 6.1 g (0.06 mole) triethyl amine and 0.05 g hydroquinone was added. The solution was warmed. 5.43 g (0.06 mole) of acryloyl chloride was added over a 15 minute period. After 11/2 hours, the solution was washed two times with 5 percent sodium carbonate in water and separated. After washing with brine and separating, the organic phase was dried over magnesium sulfate, filtered, and the solvent removed in a rotary evaporator under reduced pressure. Vacuum distillation yielded 9.2 g of pure p-trimethylsilylphenyl acrylate.

reactant | p-trimethylsilylphenol | 0.05 mole, 8.32 g | C[Si](C1=CC=C(C=C1)O)(C)C | C9H14OSi
reactant | triethyl amine | 0.06 mole, 6.1 g | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.06 mole, 5.43 g | C(C=C)(=O)Cl | C3H3ClO
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | hydroquinone | 0.05 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | p-trimethylsilylphenyl acrylate | 9.2 g | C(C=C)(=O)OC1=CC=C(C=C1)[Si](C)(C)C | C12H16O2Si
